US04179516
B--7-methoxy-3,4-dihydro-1-benzoxepin-5-one oxime
6.95 g of hydroxylamine hydrochloride dissolved in 15 ml of water and 5.3 g of sodium carbonate are added to a solution of 19.2 g of 7-methoxy-3,4-dihydro-1-benzoxepin-5-one in 45 ml of ethanol. The mixture is left at room temperature for 24 hours with stirring. 100 ml of water are then added and the alcohol is evaporated. The aqueous solution is make alkaline by the addition of soda and unreacted benzoxepin is extracted with ether. The aqueous phase is neutralised and the desired oxime is extracted with ether. After drying of the organic solution and evaporation of the solvent under reduced pressure, a white solid is obtained which, when recrystallised from cyclohexane yields 17 g of the desired pure product which has a melting point of 103° to 104° C.

reactant | hydroxylamine hydrochloride | 6.95 g | Cl.NO
reactant | sodium carbonate | 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | 7-methoxy-3,4-dihydro-1-benzoxepin-5-one | 19.2 g | COC=1C=CC2=C(C(CCCO2)=O)C1 | C11H12O3
solvent | water | 15 ml | O | H2O
solvent | ethanol | 45 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 7-methoxy-3,4-dihydro-1-benzoxepin-5-one oxime | COC=1C=CC2=C(C(CCCO2)=NO)C1 | C11H13NO3
